US04182875
In particular the preparation of atrazine is generally carried out by a discontinuous method, by reacting, in a first reaction stage, cyanuric chloride with isopropylamine in the presence of sodium hydroxide to give 2,4-dichloro-6-isopropylamino-s-triazine. This latter is reacted, in a second stage, with ethylamine and with a further quantity of sodium hydroxide with the subsequent formation of the desired product: 2-chloro-4-ethylamino-6-isopropylamino-s-triazine.

reactant | atrazine | CCNC1=NC(=NC(=N1)Cl)NC(C)C | C8H14ClN5
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,4-dichloro-6-isopropylamino-s-triazine | ClC1=NC(=NC(=N1)Cl)NC(C)C | C6H8Cl2N4
